US08461328B2
A mixture of trans (4-isopropylcarbamoyl-cyclohexyl)-carbamic acid tert-butyl ester (1.35 g, 4.75 mmoll) in DCM (25 ml) was treated with TFA (5 ml) at ambient temperature for 1 hour. The solvent was evaporated under vacuum and the residues diluted with water and extracted into ethyl acetate. The combined organic extracts were washed with 1M sodium hydroxide, water and brine, dried with magnesium sulfate and concentrated under vacuum affording 400 mg (46%) of trans 4-amino-cyclohexanecarboxylic acid isopropylamide as a white solid. LCMS (Method B, ESI): RT=0.43 min, m+H=185.21; 1H NMR (400 MHz, DMSO) δ: 7.50 (d; 1H); 3.81-3.75 (m; 1H); 2.55 (m, 1H); 1.94 (m; 1H); 1.79 (m; 2H); 1.69-1.58 (m; 2H); 1.35 (m; 2H); 1.01 (d; 6H) 0.99 (m; 2H).

reactant | trans (4-isopropylcarbamoyl-cyclohexyl)-carbamic acid tert-butyl ester | 1.35 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(NC(C)C)=O)=O | C15H28N2O3
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | trans 4-amino-cyclohexanecarboxylic acid isopropylamide | 400 mg, 46% | C(C)(C)NC(=O)[C@@H]1CC[C@H](CC1)N | C10H20N2O
